US06974815B2
4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile (150 mg) (0.38 mmol) in DMF (5 ml) was carefully dropped on a suspension of NaH 60% (18.2 mg) (1.2 eq) in DMF (5 ml) at RT. The reaction mixture was stirred 1 h at RT, then ethyl iodide (0.046 ml) (1.5 eq) was added. After one night, the reaction mixture was poured on water and extracted with tBuOMe. The organic layer was washed with water, dried over Na2SO4 and concentrated to yield a solid which was purified by HPLC to give 4-[1-(3,5-Dichlorophenyl)-3-ethyl-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile (18.2 mg) as a white solid. 1H NMR (CDCl3):. 7.55 (2H, d), 7.25 (2H, d), 7.10 (1H, m), 6.80 (2H, m), 4.95 (1H, m), 3.75 (1H, m), 3.15 (1H, m), 3.0 (2H, s), 2.5-1.7 (6H, m), 1.25 (3H, t).

reactant | 4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile | 0.38 mmol, 150 mg | ClC=1C=C(C=C(C1)Cl)N1C(NC2(C1=CCCC2)CC2=CC=C(C#N)C=C2)=O | C21H17Cl2N3O
reactant | NaH | 18.2 mg, 1.2 eq | [H-].[Na+]
reactant | ethyl iodide | 0.046 ml, 1.5 eq | C(C)I | C2H5I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[1-(3,5-Dichlorophenyl)-3-ethyl-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile | 18.2 mg | ClC=1C=C(C=C(C1)Cl)N1C(N(C2(C1=CCCC2)CC2=CC=C(C#N)C=C2)CC)=O | C23H21Cl2N3O
